US08012976B2
Ethyl 2-(3-(dimethylcarbamoyl)-4-fluorophenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of compound 1-methyl-1H-imidazole-2-carbaldehyde (110 mg, 1.0 mmol) and (E)-2-fluoro-N,N-dimethyl-5-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)benzamide (300 mg, 0.92 mmol) in ethyl propionate (10 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol (sodium (85 mg, 3.68 mmol) in ethanol (5 mL)) was added dropwise. After the addition, the mixture was stirred at room temperature for 2.5 hr. The mixture was quenched with water (20 mL) and solvent was removed in vacuum. The residue was dissolved in water and extracted with ethyl acetate three times, washed by water, brine then the extraction was evaporated, the crude product was purified by chromatography to obtain a yellow solid. The solid was dried in vacuum at 50° C. to give the title compound (130 mg, yield: 30%). LC-MS (ESI) m/z: 465 (M+1)+.

reactant | 1-methyl-1H-imidazole-2-carbaldehyde | 1.0 mmol, 110 mg | CN1C(=NC=C1)C=O | C5H6N2O
reactant | (E)-2-fluoro-N,N-dimethyl-5-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)benzamide | 0.92 mmol, 300 mg | FC1=C(C(=O)N(C)C)C=C(C=C1)/C=N/C1=C2COC(C2=CC=C1)=O | C18H15FN2O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 3.68 mmol, 5 mL, 85 mg | C(C)O | C2H6O
solvent | ethyl propionate | 10 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(3-(dimethylcarbamoyl)-4-fluorophenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 130 mg, yield: 30% | CN(C(=O)C=1C=C(C=CC1F)C1NC=2C=CC=C(C2C(C1C=1N(C=CN1)C)=O)C(=O)OCC)C | C25H25FN4O4
